US05405839
According to the method of Tenor (J. Am. Chem. Soc., p. 159-168, 1961), 2-cyanoethylphosphoric acid pyridinium salt was prepared. Namely, 1.61 g of barium 2-cyanoethylphosphate and 10 g of an ion exchange resin (Dowex 50 (hydrogen ion form)) were suspended in water, stirred at room temperature for 30 minutes, 2 ml of pyridine was added to the supernatant, the mixture was washed with water, and the mixture then concentrated to dryness under a reduced pressure, followed by an addition of pyridine to give 1 mmol/ml of 2-cyanoethylphosphoric acid pyridinium solution.

reactant | 2-cyanoethylphosphoric acid pyridinium salt | [NH+]1=CC=CC=C1.C(#N)CCOP([O-])([O-])=O.[NH+]1=CC=CC=C1
reactant | barium 2-cyanoethylphosphate | 1.61 g | C(#N)CCOP(=O)([O-])[O-].[Ba+2]
reactant | pyridine | 2 ml | N1=CC=CC=C1 | C5H5N
solvent | water | O | H2O
product | 2-cyanoethylphosphoric acid pyridinium | 1 mmol/ml | [NH+]1=CC=CC=C1.C(#N)CCOP(O)(O)=O | InChI=1S/C5H5N.C3H6NO4P/c1-2-4-6-5-3-1;4-2-1-3-8-9(5,6)7/h1-5H;1,3H2,(H2,5,6,7)/p+1
